US07101880B2
Synthesis of ({1 (S)-[1 (S)-(benzoxazol-2-ylcarbonyl)propylcarbamoyl]-3-methylbutylamino}-morpholin-4-ylmethylene)carbamic acid ethyl ester
(Morpholine-4-carbothioyl)carbamic acid ethyl ester (55 mg, 0.25 mmol), 2-amino-4-methylpentanoic acid [1-(benzoxazol-2-ylhydroxymethyl)propyl]amide hydrochloride (90 mg, 0.25 mmol), and diisopropylethylamine (0.13 mL, 0.76 mmol) were dissolved in dichloromethane (5 mL). 2-Chloro-1-methylpyridinium iodide (84 mg, 0.33 mmol) was added and the reaction mixture was stirred at ambient temperature over night. After dilution with ethyl acetate (100 mL), the solution was washed with sat. aq. NaHCO3, and brine, dried with MgSO4 and evaporated under vacuum. The residue was dissolved in dichloromethane (10 mL) and Dess-Martin periodinane (400 mg) was added. The reaction mixture was stirred at ambient temperature for 1 h. After dilution with ethyl acetate (100 mL), the solution was washed with a 0.26 M solution of Na2S2O3 in sat. aqu. NaHCO3, then with sat. aq. NaHCO3, and brine, dried with MgSO4 and evaporated under vacuum. After purification by flash chromatography on silica gel, the title compound was obtained as yellowish glass (10 mg, 0.020 mmol). MS: (M+H)+ 502.

reactant | (Morpholine-4-carbothioyl)carbamic acid ethyl ester | 0.25 mmol, 55 mg | C(C)OC(NC(=S)N1CCOCC1)=O | C8H14N2O3S
reactant | 2-amino-4-methylpentanoic acid [1-(benzoxazol-2-ylhydroxymethyl)propyl]amide hydrochloride | 0.25 mmol, 90 mg | Cl.O1C(=NC2=C1C=CC=C2)C(C(CC)NC(C(CC(C)C)N)=O)O
reactant | diisopropylethylamine | 0.76 mmol, 0.13 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Chloro-1-methylpyridinium iodide | 0.33 mmol, 84 mg | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ({1 (S)-[1 (S)-(benzoxazol-2-ylcarbonyl)propylcarbamoyl]-3-methylbutylamino}-morpholin-4-ylmethylene)carbamic acid ethyl ester | C(C)OC(N=C(N1CCOCC1)N[C@@H](CC(C)C)C(N[C@@H](CC)C(=O)C=1OC2=C(N1)C=CC=C2)=O)=O | C25H35N5O6
